Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:6],4.25013970444
[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][H:7]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7],-5.25596407238
[H:11].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]=[C:9]([H:10])[H:11],-2.05928395539
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],3.58807553402
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.98917002877
[H:1][C:2]([H:3])=[C:4][H:5].[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.13280605094
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-3.8055271392
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7].[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.6211773026800005
[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-5.77340197979
[C:5]([H:6])[H:7].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],-5.52780703668
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],3.03929154598
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12],-3.86098114206
[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][O:4][C:5][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-7.54628765607
[H:1][C:2][C:3]([H:4])([C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]=[C:3]([C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:4],1.1400948374200002
[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:5]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-1.64783994061
[H:1][O:2][C:3]#[C:4][O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-2.97523726671
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-0.680853970247
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:9](/[C:7](=[O:6])[H:8])[H:10]>>[H:1][C:2]([H:3])[O:4][C@@:5]12[O:6][C@@:7]1([H:8])[C:9]2[H:10],0.33312088919
[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-5.363023421359999
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.57935929442
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:9][H:10].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-1.86604921039
[H:11].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.95085148988
[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-5.39998267464
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7][O:8][H:9],4.92720919165
[C:1].[C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10],-3.63063737348
[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.53808896752
[C:1]#[C:2][C@@:3]([H:4])([O:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[C:1]#[C:2][C@:3]([H:4])([O:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.13200521288
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[C:7]([H:8])([H:9])[H:10],4.50503550163
[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],3.96532390679
